US04820705
Methyl 3-(2-benzenesulphonamido-indan-5-yl)-butyrate
3.2 g (8.95 mmol) of 3-(2-benzenesulphonamido-indan-5-yl)-crotonic acid in 50 ml of dioxan are hydrogenated in the presence of Raney nickel at room temperature under a hydrogen pressure of 3.5 bar. The mixture is filtered, the filtrate is evaporated, the residue is dissolved in 20 ml of methanol, and 1.5 ml of thionyl chloride are added dropwise at -50° C. The mixture is allowed to stand overnight at room temperature and is evaporated again, and the residue is chromatographed over silica gel using ethylene chloride. The fractions having an Rf-value of 0.6 are combined and evaporated. This gives a colourless oil.

reactant | 3-(2-benzenesulphonamido-indan-5-yl)-crotonic acid | 8.95 mmol, 3.2 g | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)\C(=C/C(=O)O)\C | C19H19NO4S
reactant | dioxan | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | Methyl 3-(2-benzenesulphonamido-indan-5-yl)-butyrate | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CC(=O)OC)C | C20H23NO4S
